US05451596
In a sealed tube, cycloheptene oxide (5.44 g; 48.50 mmol)and ammonium hydroxide solution (10 ml) in 4 ml methanol is heated to 80° C. for 72 hrs. After removal of the heat, the mixture is concentrated in vacuo to obtain trans-2-aminocycloheptanol which is used directly in the next step.

reactant | cycloheptene oxide | 48.50 mmol, 5.44 g | C12C(CCCCC1)O2 | C7H12O
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | methanol | 4 ml | CO | CH4O
product | trans-2-aminocycloheptanol | N[C@H]1[C@@H](CCCCC1)O | C7H15NO
